US07547788B2
[4-(3,4-Dichloro-phenoxy)-2,2,6,6-tetramethyl-piperidin-1-yl]-acetonitrile hydrochloric acid salt
A mixture of 4-(3,4-dichloro-phenoxy)-2,2,6,6-tetramethyl-piperidine (1.22 g, 3.9 mmol), potassium carbonate (6.9 g, 50 mmol), cyanomethylbenzenesulfonate (7.5 ml, 40 mmol) and DMSO (20 ml) was stirred at 70° C. for 15 h. Water (100 ml) was added and the mixture was extracted with diethyl ether (2×50 ml). Chromatography on silica gel with ethyl acetate:petroleum (1:1) gave the title compound. Hydrochloric acid in ether was added and the hydrochloric acid salt was precipitated and stirred for 10 min, followed by filtration. Yield 0.23 g, (16%). Mp >200° C. (Dec.).

reactant | 4-(3,4-dichloro-phenoxy)-2,2,6,6-tetramethyl-piperidine | 3.9 mmol, 1.22 g | ClC=1C=C(OC2CC(NC(C2)(C)C)(C)C)C=CC1Cl | C15H21Cl2NO
reactant | potassium carbonate | 50 mmol, 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | cyanomethylbenzenesulfonate | 40 mmol, 7.5 ml | C(#N)COS(=O)(=O)C1=CC=CC=C1 | C8H7NO3S
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | Water | 100 ml | O | H2O
product | [4-(3,4-Dichloro-phenoxy)-2,2,6,6-tetramethyl-piperidin-1-yl]-acetonitrile hydrochloric acid salt | Cl.ClC=1C=C(OC2CC(N(C(C2)(C)C)CC#N)(C)C)C=CC1Cl | InChI=1S/C17H22Cl2N2O.ClH/c1-16(2)10-13(11-17(3,4)21(16)8-7-20)22-12-5-6-14(18)15(19)9-12;/h5-6,9,13H,8,10-11H2,1-4H3;1H
